US07189851B2
Ethyl (9aS)-4-(4-{[(2-furylmethyl)amino]sulfonyl}phenyl)-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate
Polymer-bound tert-butyl (3-oxopropanoyl)-1-pyrrolidinecarboxylate (0.70 g, 0.31 meq/g, 0.44 mmol) was suspended in 5 mL anhydrous DMF and 4-formyl-N-(2-furylmethyl)benzenesulfonamide (0.82 g, 3.1 mmol) was added followed by piperidine (0.06 mL), and trimethyl orthoformate (0.2 mL) and AcOH (0.04 mL). After 14 h at 65° C., the resin was filtered and washed as above and resuspended in 5 mL fresh DMF. Ethyl (2Z)-3-amino-5-[4-(trifluoromethyl)phenyl]-2-pentenoate (0.89 g, 3.1 mmol) was added followed by trimethyl orthoformate (0.2 mL) and the sealed reaction mixture was heated at 80° C. for 16 h. The resin was filtered and washed as before. The resin was suspended in DCM (8 mL) and DDQ (0.17 g, 0.77 mmol) was added. The brown suspension was shaken at room temperature for 30 min then filtered and washed as before. The resin was dried overnight at 30° C. under high vacuum. The resin was suspended in 1 mL TFA:DCM:phenol:thioanisole (70:20:5:5) and shaken for 0.5 h, filtered and washed. The resin was shaken in 2 mL 5% TEA in DCM for 24 h. The resin was filtered into a collection flask and rinsed with additional DCM (3×). The filtrate was concentrated and the product was purified by preparative column chromatography (SiO2, hexanes:EtOAc 2:3) then triturated in ether to provide the title compound as white solid (21 mg, 0.032 mmol, 100%): mp=181–182° C. 1H NMR (400 MHz, CDCl3) δ 7.88 (d, J=8.4 Hz, 2H), 7.54 (d, J=8.0 Hz, 2H), 7.51 (d, J=8.4 Hz, 2H), 7.33 (d, J=8.4 Hz, 2H), 7.30 (m, 1H), 6.24 (m, 1H), 6.16 (m, 1H), 4.84 (t, J=6.0 Hz, 1H), 4.74 (dd, J=10.2, 6.4 Hz, 1H), 4.24 (d, J=6.0 Hz, 2H), 4.01 (q, J=7.0 Hz, 2H), 3.71 (m, 1H), 3.40 (m, 1H), 3.3–3.1 (m, 4H), 2.49 (m, 1H), 2.37 (m, 2H), 1.5–1.3 (m, 1H), 0.92 (t, J=7.0 Hz, 3H) ppm. ESMS m/z 654 (M+H)+. Anal. calcd. For C33H30F3N3O6S: C, 60.64; H, 4.63; N, 6.43; S, 4.91; found: C, 60.41; H, 4.63; N, 6.43; S, 4.99.

reactant | tert-butyl (3-oxopropanoyl)-1-pyrrolidinecarboxylate | 0.44 mmol, 0.70 g | O=CCC(=O)C1N(CCC1)C(=O)OC(C)(C)C | C12H19NO4
reactant | 4-formyl-N-(2-furylmethyl)benzenesulfonamide | 3.1 mmol, 0.82 g | C(=O)C1=CC=C(C=C1)S(=O)(=O)NCC=1OC=CC1 | C12H11NO4S
reactant | piperidine | 0.06 mL | N1CCCCC1 | C5H11N
reactant | trimethyl orthoformate | 0.2 mL | C(OC)(OC)OC | C4H10O3
reactant | Ethyl (2Z)-3-amino-5-[4-(trifluoromethyl)phenyl]-2-pentenoate | 3.1 mmol, 0.89 g | N\C(=C/C(=O)OCC)\CCC1=CC=C(C=C1)C(F)(F)F | C14H16F3NO2
reactant | trimethyl orthoformate | 0.2 mL | C(OC)(OC)OC | C4H10O3
reactant | DDQ | 0.77 mmol, 0.17 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | AcOH | 0.04 mL | CC(=O)O | C2H4O2
product | Ethyl (9aS)-4-(4-{[(2-furylmethyl)amino]sulfonyl}phenyl)-5-oxo-2-{2-[4-(trifluoromethyl)phenyl]ethyl}-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizine-3-carboxylate | 0.032 mmol, 21 mg, 100% | O1C(=CC=C1)CNS(=O)(=O)C1=CC=C(C=C1)C1=C(C(=NC2=C1C(N1CCC[C@@H]21)=O)CCC2=CC=C(C=C2)C(F)(F)F)C(=O)OCC | C33H30F3N3O6S
